US06288103B1
Methyl 4-hydroxyindole-2-carboxylate
Boron tribromide (73.1 ml, 1.0 M solution in DCM) was added dropwise to a solution of methyl 4-methoxyindole-2-carboxylate (5 g) in DCM (200 ml) cooled to −78° C. under argon. The reaction was allowed to warm to room temperature then partitioned between dichloromethane and saturated aqueous sodium hydrogen carbonate solution. Combined organic extracts were dried (MgSO4) and concentrated in vacuo and the residue purified by column chromatography using isohexane-50% ethyl acetate as eluent to give the end product as a yellow solid (2.98 g, 64%); NMR δ (CD3SOCD3) 3.82 (s, 3H), 6.36 (d, 1H), 6.85 (d, 1H), 7.02 (t, 1H), 7.17 (d, 1H), 9.66 (s, 1H), 11.72 (bs, 1H); M/z (+) 192 (MH+).

reactant | Boron tribromide | 1.0 M, 73.1 ml | B(Br)(Br)Br | BBr3
reactant | methyl 4-methoxyindole-2-carboxylate | 5 g | COC1=C2C=C(NC2=CC=C1)C(=O)OC | C11H11NO3
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | Methyl 4-hydroxyindole-2-carboxylate | 2.98 g, 64% | OC1=C2C=C(NC2=CC=C1)C(=O)OC | C10H9NO3
